US05681842
To a magnetically stirred solution of 2-amino-5-nitrophenol (5.62 g, 36.5 mmol) and chloro-t-butyldimethylsilane (5.00 g, 33.2 mmol) in dry dichloromethane (66 mL) was added triethylamine (5.55 mL, 39.8 mmol) at 25° C. The reaction mixture was stirred at ambient temperature for 4 hours and partitioned between diethyl ether (200 mL) and saturated ammonium chloride. The aqueous layer was separated and the ether layer washed (saturated ammonium chloride, 1x; water, 1x; brine, 1x), dried (MgSO4), filtered, and evaporated in vacuo. Crystallization from ethyl acetate/hexanes gave 7.5 g (84%) of O-t-butyldimethylsilyl-2-amino-5-nitrophenol

reactant | 2-amino-5-nitrophenol | 36.5 mmol, 5.62 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | chloro-t-butyldimethylsilane | 33.2 mmol, 5.00 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | triethylamine | 39.8 mmol, 5.55 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 66 mL | ClCCl | CH2Cl2
product | O-t-butyldimethylsilyl-2-amino-5-nitrophenol | 7.5 g, 84% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)[N+](=O)[O-])N | C12H20N2O3Si
